US07390908B2
Preparation of tert-butyl 2-nitropyridin-5-yl(2-methoxyethyl)carbamate
To a suspension of Cs2CO3 (1430 mg) in toluene was added 2-nitro-5-bromopyridine (406 mg), Pd(Ac)2 (44 mg), 1,1-bis(diphenylphosphino)ferrocene (322 mg) and 2-methyloxyethyl amine (0.26 ml). The mixture was stirred at 85° C., under Nitrogen, for 16 hours. Allowed to cool to ambient temperature. Diluted with ethyl acetate (100 ml), and filtered through a celite plug. Volatile material was removed by evaporation, the residue was purified by flash chromatography on silica, eluted with 50-100% ethyl acetate in hexane to give a solid which was added to a solution of di-tert-butyl-dicarbonate (436 mg) and N-dimethyl-aminopyridine (cat) in THF (10 ml). The solution was stirred for 14 hours at 75° C. Allowed to cool to ambient temperature, then the volatile material was removed by evaporation. The residue was dissolved in ethyl acetate (100 ml), washed with water (50 ml), brine (50 ml), dried over MgSO4. Volatile material was removed by evaporation, the residue was purified by flash chromatography on silica, eluted with 20-40% ethyl acetate in hexane to give the title compound (359 mg) as a gum, 1H NMR δ (CDCL3): 1.49 (s, 9H), 3.33 (s, 6H), 3.62 (t, 2H), 3.86 (t, 2H), 8.06 (dd, 1H), 8.21 (d, 1H), 8.65 (s, 1H). MS ES+298.35 (M+H)+.

reactant | Cs2CO3 | 1430 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-nitro-5-bromopyridine | 406 mg | [N+](=O)([O-])C1=NC=C(C=C1)Br | C5H3BrN2O2
reactant | 2-methyloxyethyl amine | 0.26 ml | COCCN | C3H9NO
reactant | di-tert-butyl-dicarbonate | 436 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | 1,1-bis(diphenylphosphino)ferrocene | 322 mg | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
product | tert-butyl 2-nitropyridin-5-yl(2-methoxyethyl)carbamate | 359 mg | [N+](=O)([O-])C1=NC=C(C=C1)N(C(OC(C)(C)C)=O)CCOC | C13H19N3O5
